US07282512B2
[1-(2,6-Difluorobenzyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-{[(methylamino)carbonyl]amino}pentylcarbamate was prepared as in example 9i except that [1-(2,6-difluorobenzyl)cyclobutyl]methanol was substituted for (1-benzylcyclohexyl)methanol, and (3S)-3-amino-2-hydroxy-7-{[(methylamino)carbonyl]amino}-N-[(1R)-1-phenylethyl]heptanamide hydrochloride was substituted for N-((5S)-5-amino-6-hydroxy-7-oxo-7-{[(1R)-1-phenylethyl]amino}heptyl)-4-morpholinecarboxamide hydrochloride. 1H NMR (300 MHz, DMSO-d6) δ 8.06 (m, 1H), 7.01-7.45 (m, 8H), 6.43 (d, J=8 Hz, 1H), 5.83 (m, 1H), 5.60 (m, 2H), 4.94 (m, 1H), 3.70-4.00 (m, 4H), 3.35 under water peak (m, 3H), 2.65-3.00 (m, 4H), 1.60-1.85 (m, 6H), 1.10-1.50 (m, 9H). ES-LCMS m/z 573 (M−H).

reactant | [1-(2,6-difluorobenzyl)cyclobutyl]methanol | FC1=C(CC2(CCC2)CO)C(=CC=C1)F | C12H14F2O
reactant | (1-benzylcyclohexyl)methanol | C(C1=CC=CC=C1)C1(CCCCC1)CO | C14H20O
reactant | (3S)-3-amino-2-hydroxy-7-{[(methylamino)carbonyl]amino}-N-[(1R)-1-phenylethyl]heptanamide hydrochloride | Cl.N[C@H](C(C(=O)N[C@H](C)C1=CC=CC=C1)O)CCCCNC(=O)NC
reactant | N-((5S)-5-amino-6-hydroxy-7-oxo-7-{[(1R)-1-phenylethyl]amino}heptyl)-4-morpholinecarboxamide hydrochloride | Cl.N[C@@H](CCCCNC(=O)N1CCOCC1)C(C(N[C@H](C)C1=CC=CC=C1)=O)O
product | [1-(2,6-Difluorobenzyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-{[(methylamino)carbonyl]amino}pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)NC)NC(OCC1(CCC1)CC1=C(C=CC=C1F)F)=O | C30H40F2N4O5
